US08859580B2
8,9-Dihydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester
Di-tert-butyl dicarbonate (0.34 g) is added to a solution of 6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8,9-diol (0.44 g) and triethylamine (0.43 mL) in dichloromethane (5 mL). The solution is stirred at room temperature for 2 h. Then, the solution is washed twice with water and once with brine. After drying (MgSO4), the solvent is removed under reduced pressure to yield the product.

reactant | Di-tert-butyl dicarbonate | 0.34 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8,9-diol | 0.44 g | CC12C3=C(CC(NCC1)C2(C)C)C=C(C(=C3)O)O | C15H21NO2
reactant | triethylamine | 0.43 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 8,9-Dihydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CC3=C(C(CC1)(C2(C)C)C)C=C(C(=C3)O)O | C20H29NO4
